US04963564
2-Quinolinebutanol
4-(2-Quinolinyl)-3-butynol (2.53 g) was hydrogenated over pre-reduced 10% palladium on charcoal (50% aqueous paste, 0.6 g) in ethanol (100 ml) at room temperature and pressure. The reaction mixture was filtered through hyflo and evaporated in vacuo to afford the title compound as a colourless semi-solid (2.50 g), t.l.c. (diethyl ether), Rf 0.20.

reactant | 4-(2-Quinolinyl)-3-butynol | 2.53 g | N1=C(C=CC2=CC=CC=C12)C#CCCO | C13H11NO
catalyst | palladium on charcoal | 0.6 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Quinolinebutanol | 2.50 g | N1=C(C=CC2=CC=CC=C12)CCCCO | C13H15NO
